### PR TITLE
[Merged by Bors] - feat: `μ.real` as the real-valued version of a measure

### PR DESCRIPTION
**Pull request by sgouezel**
We port some API of measures to their real-valued versions. Upstreamed from PFR and Carleson

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/Real.lean [hunk 1]
```diff
@@ -0,0 +1,434 @@
...
+/-- The nnreal-valued version of a measure. Maps infinite measure sets to zero.
+Use as `μ.nnreal s`. -/
+protected def Measure.nnreal (s : Set α) : ℝ≥0 :=
+  (μ s).toNNReal
+
+theorem measureNNReal_def (s : Set α) : μ.nnreal s = (μ s).toNNReal := rfl
+
+@[simp] theorem measureNNReal_toReal (s : Set α) : (μ.nnreal s).toReal = μ.real s := rfl
+
+theorem measureNNReal_val (s : Set α) : (μ.nnreal s).val = μ.real s := rfl
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Real.lean:51]: You define that nnreal version but there is no API about it beyond this point. Let's delete it?
Also, working with nnreal is often not more pleasant than ennreal anyway, so I am not sure that it's really useful.

File: Mathlib/MeasureTheory/Measure/Real.lean [hunk 2]
```diff
@@ -0,0 +1,422 @@
...
+namespace MeasureTheory
+
+variable {α β ι : Type*} {_ : MeasurableSpace α} {μ : Measure α} {s s₁ s₂ s₃ t t₁ t₂ u : Set α}
+
+variable (μ) in
+/-- The real-valued version of a measure. Maps infinite measure sets to zero. Use as `μ.real s`. -/
+protected def Measure.real (s : Set α) : ℝ :=
+  (μ s).toReal
+
+theorem measureReal_def (s : Set α) : μ.real s = (μ s).toReal := rfl
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Measure/Real.lean:41]: Should this be
```suggestion
theorem Measure.real_def (s : Set α) : μ.real s = (μ s).toReal := rfl
```
since then you can use `rw [μ.real_def]`?

Comment (sgouezel) [reply Mathlib/MeasureTheory/Measure/Real.lean:41]: All the other lemmas are spellt using `measureReal`, so it looks more natural to me to use the same spelling here for coherence. But I agree that the other version is nice because it enables dot notation. Let me add an alias.

File: Mathlib/MeasureTheory/Measure/Real.lean [hunk 3]
```diff
@@ -0,0 +1,424 @@
...
+theorem measureReal_univ_ne_zero [IsFiniteMeasure μ] [NeZero μ] : μ.real Set.univ ≠ 0 :=
+  measureReal_univ_pos.ne'
+
+theorem nonempty_of_measureReal_ne_zero (h : μ.real s ≠ 0) : s.Nonempty :=
+  nonempty_iff_ne_empty.2 fun h' ↦ h <| h'.symm ▸ measureReal_empty
+
+@[simp] theorem measureReal_ennreal_smul_apply (c : ℝ≥0∞) :
+    (c • μ).real s = c.toReal * μ.real s := by
+  rw [measureReal_def, smul_apply, smul_eq_mul, ENNReal.toReal_mul]
+  rfl
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Real.lean:74]: This avoids the ending `rfl`.
```suggestion
  simp [Measure.real]
```

File: Mathlib/MeasureTheory/Measure/Real.lean [hunk 4]
```diff
@@ -0,0 +1,424 @@
...
+
+@[simp] theorem measureReal_nnreal_smul_apply (c : ℝ≥0) :
+    (c • μ).real s = c * μ.real s := by
+  simp [measureReal_def, smul_apply]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Real.lean:78]:
```suggestion
  simp [measureReal_def]
```

File: Mathlib/MeasureTheory/Measure/Real.lean [hunk 5]
```diff
@@ -0,0 +1,424 @@
...
+
+theorem map_measureReal_apply [MeasurableSpace β] {f : α → β} (hf : Measurable f)
+    {s : Set β} (hs : MeasurableSet s) : (μ.map f).real s = μ.real (f ⁻¹' s) := by
+  rw [measureReal_def, map_apply hf hs]
+  rfl
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Real.lean:83]:
```suggestion
  simp_rw [measureReal_def, map_apply hf hs]
```

File: Mathlib/MeasureTheory/Measure/Real.lean [hunk 6]
```diff
@@ -0,0 +1,424 @@
...
+
+@[gcongr] theorem measureReal_mono (h : s₁ ⊆ s₂) (h₂ : μ s₂ ≠ ∞ := by finiteness) :
+    μ.real s₁ ≤ μ.real s₂ :=
+  ENNReal.toReal_mono h₂ (measure_mono h)
+
+theorem measureReal_mono_null (h : s₁ ⊆ s₂) (h₂ : μ.real s₂ = 0) (h'₂ : μ s₂ ≠ ∞ := by finiteness) :
+    μ.real s₁ = 0 := by
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Real.lean:90]: Is it worth to have a version with these assumptions?
```suggestion
theorem measureReal_mono_null (h : s₁ ⊆ s₂) (h₂ : μ s₂ = 0) :
    μ.real s₁ = 0 := by
```

File: Mathlib/MeasureTheory/Measure/Real.lean [hunk 7]
```diff
@@ -0,0 +1,424 @@
...
+  rw [measureReal_eq_zero_iff h'₂] at h₂
+  simp [Measure.real, measure_mono_null h h₂]
+
+theorem measureReal_le_measureReal_union_left (h : μ t ≠ ∞ := by finiteness) :
+    μ.real s ≤ μ.real (s ∪ t) := by
+  rcases eq_top_or_lt_top (μ s) with hs|hs
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Real.lean:96]: I don't know if this spacing is ok or not so I'm mentioning it just in case (it's written this way for each `rcases`).
```suggestion
  rcases eq_top_or_lt_top (μ s) with hs | hs
```

File: Mathlib/MeasureTheory/Measure/Real.lean [hunk 8]
```diff
@@ -0,0 +1,424 @@
...
+theorem measureReal_iUnion_fintype_le [Fintype β] (f : β → Set α) :
+    μ.real (⋃ b, f b) ≤ ∑ p, μ.real (f p) := by
+  convert measureReal_biUnion_finset_le Finset.univ f
+  simp
+
+theorem measureReal_iUnion_fintype [Fintype β] {f : β → Set α} (hn : Pairwise (Disjoint on f))
+    (h : ∀ i, MeasurableSet (f i)) (h' : ∀ i, μ (f i) ≠ ∞ := by finiteness) :
+    μ.real (⋃ b, f b) = ∑ p, μ.real (f p) := by
+  rw [measureReal_def, measure_iUnion hn h, tsum_fintype, ENNReal.toReal_sum (fun i _hi ↦ h' i)]
+  rfl
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Real.lean:133]:
```suggestion
  simp_rw [measureReal_def, measure_iUnion hn h, tsum_fintype,
    ENNReal.toReal_sum (fun i _hi ↦ h' i)]
```

File: Mathlib/MeasureTheory/Measure/Real.lean [hunk 9]
```diff
@@ -0,0 +1,424 @@
...
+theorem measureReal_biUnion_finset {s : Finset ι} {f : ι → Set α} (hd : PairwiseDisjoint (↑s) f)
+    (hm : ∀ b ∈ s, MeasurableSet (f b)) (h : ∀ b ∈ s, μ (f b) ≠ ∞ := by finiteness) :
+    μ.real (⋃ b ∈ s, f b) = ∑ p ∈ s, μ.real (f p) :=
+  measureReal_biUnion_finset₀ hd.aedisjoint (fun b hb ↦ (hm b hb).nullMeasurableSet) h
+
+/-- If `s` is a `Finset`, then the measure of its preimage can be found as the sum of measures
+of the fibers `f ⁻¹' {y}`. -/
+theorem sum_measureReal_preimage_singleton (s : Finset β) {f : α → β}
+    (hf : ∀ y ∈ s, MeasurableSet (f ⁻¹' {y})) (h : ∀ a ∈ s, μ (f ⁻¹' {a}) ≠ ∞ := by finiteness) :
+    (∑ b ∈ s, μ.real (f ⁻¹' {b})) = μ.real (f ⁻¹' ↑s) := by
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Real.lean:258]: I don't think this is needed.
```suggestion
    (∑ b ∈ s, μ.real (f ⁻¹' {b})) = μ.real (f ⁻¹' s) := by
```

**Review by EtienneC30 — COMMENTED** [review]
Thanks!

File: Mathlib/MeasureTheory/Measure/Real.lean (hunk 6 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Measure/Real.lean:88]: I think the idea here and the other lemmas is really to have something with assumptions and conclusions both in terms of `μ.real` (with the other assumption `h'₂` automatically discharged when the measure is finite). So I'd rather stick with the current version. The goal of the API is that someone only using `μ.real`, for a finite measure, never has to write `μ s` for any set `s`.

Comment (EtienneC30) [reply Mathlib/MeasureTheory/Measure/Real.lean:88]: Makes sense.

File: Mathlib/MeasureTheory/Measure/Real.lean [hunk 10]
```diff
@@ -0,0 +1,422 @@
...
+  · simp [Measure.real, hs]
+  · exact measureReal_mono subset_union_left (measure_union_lt_top hs h.lt_top).ne
+
+theorem measureReal_le_measureReal_union_right (h : μ s ≠ ∞ := by finiteness) :
+    μ.real t ≤ μ.real (s ∪ t) := by
+  rw [union_comm]
+  exact measureReal_le_measureReal_union_left h
+
+theorem measureReal_union_le (s₁ s₂ : Set α) : μ.real (s₁ ∪ s₂) ≤ μ.real s₁ + μ.real s₂ := by
+  rcases eq_top_or_lt_top (μ (s₁ ∪ s₂)) with h|h
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Real.lean:104]:
```suggestion
  rcases eq_top_or_lt_top (μ (s₁ ∪ s₂)) with h | h
```

File: Mathlib/MeasureTheory/Measure/Real.lean [hunk 11]
```diff
@@ -0,0 +1,422 @@
...
+    μ.real (s ∆ t) = μ.real (s \ t) + μ.real (t \ s) := by
+  simp only [Measure.real]
+  rw [← ENNReal.toReal_add, measure_symmDiff_eq hs.nullMeasurableSet ht.nullMeasurableSet]
+  · exact measure_ne_top_of_subset diff_subset h₁
+  · exact measure_ne_top_of_subset diff_subset h₂
+
+lemma measureReal_symmDiff_le (s t u : Set α)
+    (h₁ : μ s ≠ ∞ := by finiteness) (h₂ : μ t ≠ ∞ := by finiteness) :
+    μ.real (s ∆ u) ≤ μ.real (s ∆ t) + μ.real (t ∆ u) := by
+  rcases eq_top_or_lt_top (μ u) with hu|hu
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Real.lean:234]:
```suggestion
  rcases eq_top_or_lt_top (μ u) with hu | hu
```

File: Mathlib/MeasureTheory/Measure/Real.lean [hunk 12]
```diff
@@ -0,0 +1,422 @@
...
+
+theorem measureReal_diff_null' (h : μ.real (s₁ ∩ s₂) = 0) (h' : μ s₁ ≠ ∞ := by finiteness) :
+    μ.real (s₁ \ s₂) = μ.real s₁ := by
+  simp only [measureReal_def]
+  rw [measure_diff_null']
+  exact (measureReal_eq_zero_iff (measure_ne_top_of_subset inter_subset_left h')).1 h
+
+theorem measureReal_diff_null (h : μ.real s₂ = 0) (h' : μ s₂ ≠ ∞ := by finiteness) :
+    μ.real (s₁ \ s₂) = μ.real s₁ := by
+  rcases eq_top_or_lt_top (μ s₁) with H|H
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Real.lean:274]:
```suggestion
  rcases eq_top_or_lt_top (μ s₁) with H | H
```

**Review by EtienneC30 — COMMENTED** [review]
Spacing for `rcases`

**Comment by EtienneC30** [comment]
This is fine I think.
maintainer delegate

File: Mathlib/MeasureTheory/Measure/Real.lean [hunk 13]
```diff
@@ -0,0 +1,422 @@
+/-
+Copyright (c) 2025 Sébastien Gouëzel. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Sébastien Gouëzel
+-/
+import Mathlib.MeasureTheory.Measure.Prod
+import Mathlib.Tactic.Finiteness
+
+/-!
+# Measures as real valued-functions
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/Real.lean:10]:
```suggestion
# Measures as real-valued functions
```

**Comment by urkud** [comment]
Thanks! :tada:
bors merge
